US04935431
(a) Methyl 4-methoxy-3-thiophenecarboxylate 1
Methyl 4-acetoxy-3-thiophenecarboxylate (81 g, 0.40 mol) and concentrated sulphuric acid (5 ml) in methanol (1.25 l) was heated under reflux for 3 days. The solvent was evaporated and the residue diluted with water (300 ml) and extracted with ether (5 times). The ether extracts were combined, washed with 1N sodium hydroxide (3 times) and dried over sodium sulfate. Evaporation of the solvent gave the title compound, 52 g, m.p. 66°-68° (lit. m.p.68°-70°).

reactant | Methyl 4-acetoxy-3-thiophenecarboxylate | 0.40 mol, 81 g | C(C)(=O)OC=1C(=CSC1)C(=O)OC | C8H8O4S
reactant | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 1.25 l | CO | CH4O
product | Methyl 4-methoxy-3-thiophenecarboxylate | COC=1C(=CSC1)C(=O)OC | C7H8O3S
